US07939528B2
A solution of 4-[(3-amino-5-fluoro-4-nitrophenyl)oxy]benzaldehyde (1.08 g, 3.91 mmol) in a 1:1 mixture of trifluoroacetic anhydride/CH2Cl2 (10 mL total) was stirred at ambient temperature for 4 hours and then poured onto cold saturated NaHCO3. The organics were extracted 2×25 mL ethyl acetate and the combined organics washed 1×H2O, 1× brine and then dried (Na2SO4), filtered and concentrated. Chromatography on silica using 2:1 hexanes/ethyl acetate eluted the product to give 1.27 g of 2,2,2-trifluoro-N-{3-fluoro-5-[(4-formylphenyl)oxy]-2-nitrophenyl}acetamide.

reactant | 4-[(3-amino-5-fluoro-4-nitrophenyl)oxy]benzaldehyde | 3.91 mmol, 1.08 g | NC=1C=C(C=C(C1[N+](=O)[O-])F)OC1=CC=C(C=O)C=C1 | C13H9FN2O4
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | trifluoroacetic anhydride CH2Cl2 | 10 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F.C(Cl)Cl
product | 2,2,2-trifluoro-N-{3-fluoro-5-[(4-formylphenyl)oxy]-2-nitrophenyl}acetamide | 1.27 g | FC(C(=O)NC1=C(C(=CC(=C1)OC1=CC=C(C=C1)C=O)F)[N+](=O)[O-])(F)F | C15H8F4N2O5
